US07405231B2
iii) 1-[2-(4-{2-[(E)-2-(-4-Trifluoromethanesulfinyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl-methanesulfonyl)-ethyl]-1H-[1,2,3]triazole
13.0 mg (0.50 mmol) 95% sodium hydride were given to a solution of 134 mg (0.50 mmol) 4-(2-[1,2,3]triazol-1-yl-ethanesulfonylmethyl)-phenol in 4.0 ml DMF and stirred for 15 min. 168 mg (0.50 mmol) 4-Chloromethyl-2-[2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-oxazole were added and stirring continued at r.t. overnight. After addition of 10 ml water the resulting precipitate was purified by chromatography on silica gel (eluent: dichloromethane/acetone 20:1) to give 11 mg product.

reactant | sodium hydride | 0.50 mmol, 13.0 mg | [H-].[Na+]
reactant | 4-(2-[1,2,3]triazol-1-yl-ethanesulfonylmethyl)-phenol | 0.50 mmol, 134 mg | N1(N=NC=C1)CCS(=O)(=O)CC1=CC=C(C=C1)O | C11H13N3O3S
reactant | 4-Chloromethyl-2-[2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-oxazole | 0.50 mmol, 168 mg | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)S(=O)C(F)(F)F | C13H9ClF3NO2S
reactant | water | 10 ml | O | H2O
solvent | DMF | 4.0 ml | CN(C)C=O | C3H7NO
product | 1-[2-(4-{2-[(E)-2-(-4-Trifluoromethanesulfinyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl-methanesulfonyl)-ethyl]-1H-[1,2,3]triazole | 11 mg | FC(S(=O)C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CS(=O)(=O)CCN1N=NC=C1)(F)F | C24H21F3N4O5S2
